US05536725
This compound is prepared in a manner analogous to that of Step C of Example 2 by the hydrogenation of 6.5 grams (0.026 mole) of 1-(2-chlorophenyl)-1-cyclohexen-4-one in the presence of 0.4 gram (catalyst) of 10% palladium on charcoal in 50 mL of ethanol, yielding 4-(2-chlorophenyl)cyclohexanone.

reactant | 1-(2-chlorophenyl)-1-cyclohexen-4-one | 0.026 mole, 6.5 grams | ClC1=C(C=CC=C1)C1=CCC(CC1)=O | C12H11ClO
catalyst | palladium on charcoal | 0.4 gram | [Pd] | Pd
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 4-(2-chlorophenyl)cyclohexanone | ClC1=C(C=CC=C1)C1CCC(CC1)=O | C12H13ClO
